US06313122B1
Preparation of N1-(2,4-Dimethoxybenzoyl)-N2-(4-methoxybenzoyl)-1,2-benzenediamine
To a solution N1-(4-methoxybenzoyl)-1,2-benzenediamine hydrochloride (558 mg, 2.08 mmol) in methylene chloride (100 mL) was added 0.5 N aqueous sodium hydroxide (8 mL), and the resulting mixture was cooled in an ice-water bath. 2,4-Dimethoxybenzoyl chloride (0.40 g, 2.0 mmol) was added slowly with vigorous stirring. The mixture was allowed to warm slowly to room temperature and stirred for 18 h. The organic layer was separated and washed with dilute aqueous sodium bicarbonate solution, dilute aqueous hydrochloric acid, and water. The organic layer was dried (sodium sulfate), filtered, and concentrated in vacuo to provide 0.52 g (64%) of the title compound.

reactant | N1-(4-methoxybenzoyl)-1,2-benzenediamine hydrochloride | 2.08 mmol, 558 mg | Cl.COC1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1
reactant | sodium hydroxide | 0.5 N, 8 mL | [OH-].[Na+]
reactant | 2,4-Dimethoxybenzoyl chloride | 2.0 mmol, 0.40 g | COC1=C(C(=O)Cl)C=CC(=C1)OC | C9H9ClO3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | N1-(2,4-Dimethoxybenzoyl)-N2-(4-methoxybenzoyl)-1,2-benzenediamine | 0.52 g, 64% | COC1=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)OC)=O)C=CC(=C1)OC | C23H22N2O5
